US08217043B2
2-(S)-{[4-Hydroxy-2-oxo-1-(4-trifluoromethyl-benzyl)-1,2-dihydro-pyrrolo[1,2-b]pyridazine-3-carbonyl]-amino}-propionic acid
Prepared according to the reaction condition used in Example 19 step a) from 4-hydroxy-2-oxo-1-(4-trifluoromethyl-benzyl)-1,2-dihydro-pyrrolo[1,2-b]pyridazine-3-carboxylic acid methyl ester, L-alanine and NaOMe. ESI (m/z): 424 (M+H)+.

reactant | 4-hydroxy-2-oxo-1-(4-trifluoromethyl-benzyl)-1,2-dihydro-pyrrolo[1,2-b]pyridazine-3-carboxylic acid methyl ester | COC(=O)C1=C(C=2N(N(C1=O)CC1=CC=C(C=C1)C(F)(F)F)C=CC2)O | C17H13F3N2O4
reactant | L-alanine | N[C@@H](C)C(=O)O | C3H7NO2
reactant | NaOMe | C[O-].[Na+]
product | 2-(S)-{[4-Hydroxy-2-oxo-1-(4-trifluoromethyl-benzyl)-1,2-dihydro-pyrrolo[1,2-b]pyridazine-3-carbonyl]-amino}-propionic acid | OC=1C=2N(N(C(C1C(=O)N[C@H](C(=O)O)C)=O)CC1=CC=C(C=C1)C(F)(F)F)C=CC2 | C19H16F3N3O5
